US07576115B2
2) Synthesis of 4-(tert-butyldimethylsilanyloxymethyl)-3-nitrobenzoic acid
To a solution of 4-hydroxymethyl-3-nitrobenzoic acid (1.50 g, 7.62 mmol) and imidazole (1.55 g, 22.8 mmol) in dimethylformamide (20 mL) was added tert-butyldimethyl-silyl chloride (2.23 g, 14.8 mmol), and then the reaction mixture was stirred at room temperature for 15 hours. To the reaction mixture, saturated ammonium chloride aqueous solution was added and acidified with 1 M hydrochloric acid. The aqueous layer was extracted with ethyl acetate three times. The combined organic layer was washed with saturated ammonium chloride aqueous solution, water and brine, dried with sodium sulfate, filtered, and concentrated under the reduced pressure. The residue was purified by silica gel column chromatography to give the desired product as a white solid (1.73 g, yield 73%).

reactant | 4-hydroxymethyl-3-nitrobenzoic acid | 7.62 mmol, 1.50 g | OCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | imidazole | 22.8 mmol, 1.55 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethyl-silyl chloride | 14.8 mmol, 2.23 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(tert-butyldimethylsilanyloxymethyl)-3-nitrobenzoic acid | 1.73 g, yield 73% | [Si](C)(C)(C(C)(C)C)OCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C14H21NO5Si
